US08471005B2
(4-Morpholin-4-yl-phenyl)-(7-quinolin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine and 3-quinolineboronic acid in an analogous manner to Example 1031b. Product isolated as a yellow solid (21 mg, 17%). m.p.=decomposed at 268° C.; LCMS (m/e) 423 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 9.40 (s, 1H), 9.30 (s, 1H), 8.77 (s, 1H), 8.14 (d, 1H, J=8.7 Hz), 7.85 (d, 1H, J=7.7 Hz), 7.77-7.68 (m, 2H), 7.63-7.55 (m, 2H), 7.24-7.19 (m, 1H), 6.96 (d, 2H, J=7.6 Hz), 6.93-6.86 (m, 1H), 6.70 (s, 1H), 3.95-3.87 (m, 4H), 3.22-3.14 (m, 4H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 3-quinolineboronic acid | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
product | (4-Morpholin-4-yl-phenyl)-(7-quinolin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC1=CC=CC=C1C2 | C25H22N6O
